US04374249
[4R]-3-(3-Acetyl-3-benzoyl-2-methylpropionyl)-2,2-dimethyl-4-thiazolidinecarboxylic acid
A mixture of 8.39 g. (0.052 mole) of L-2,2-dimethylthiazolidine-4-carboxylic acid and 5.26 g. of triethylamine is heated on a steam bath. To the mixture is added 0.052 mole of a mixture of 3-methyl-5-phenyl-2(3H)-furanone and 3-methyl-5-phenyl-2(5H)-furanone in 150 ml. of dry isopropyl alcohol. The mixture is refluxed for 144 hours and the solvent is removed in vacuo. The residue is partitioned between water and ethyl acetate. The aqueous layer is poured onto crushed ice and acidified with hydrochloric acid. The mixture is extracted with ethyl acetate and the organic layer is dried over sodium sulfate. The solvent is removed to give 4.8 g. of a yellow glass which is a mixture of [4R-(4R*,2'R*)]-3-(3-benzoyl-2-methylpropionyl)-2,2-dimethyl-4-thiazolidinecarboxylic acid and [4R-(4R*,2'S*)]-3-(3-benzoyl-2-methylpropionyl)-2,2-dimethyl-4-thiazolidinecarboxylic acid. The mixture is dissolved in acetic acid containing anhydrous hydrogen bromide gas and to the mixture is added bromine. Removal of the solvent gives a glass which is reacted with potassium thioacetate as in the procedure of Example 1 to give the product of the Example as a mixture of diastereomers.

reactant | 3-methyl-5-phenyl-2(3H)-furanone | CC1C(OC(=C1)C1=CC=CC=C1)=O | C11H10O2
reactant | 3-methyl-5-phenyl-2(5H)-furanone | CC=1C(OC(C1)C1=CC=CC=C1)=O | C11H10O2
reactant | 3-(3-benzoyl-2-methylpropionyl)-2,2-dimethyl-4-thiazolidinecarboxylic acid | C(C1=CC=CC=C1)(=O)CC(C(=O)N1C(SCC1C(=O)O)(C)C)C | C17H21NO4S
reactant | bromine | BrBr | Br2
reactant | potassium thioacetate | C(C)(=S)[O-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | [4R]-3-(3-Acetyl-3-benzoyl-2-methylpropionyl)-2,2-dimethyl-4-thiazolidinecarboxylic acid | C(C)(=O)C(C(C(=O)N1C(SC[C@H]1C(=O)O)(C)C)C)C(C1=CC=CC=C1)=O | C19H23NO5S
